US05968863
(b) Synthesis of isopropylidene(cyclopentadienyl)(indenyl) zirconium dichloride
4.45 g (20 mmol) of 2,2-(cyclopentadienyl)(indenyl)propane was dissolved in 100 ml of ether, cooled up to -20° C., and treated by 22 ml of 2.0M n-BuLi/pentane. The resulting suspension was allowed to warm to room temperature, then cooled to -40° C., and treated with 12.06 g (50 mmol) of Et2SnCl. Organic layer was separated, evaporated, and mixed with 50 ml of toluene. 4.66 g (20 mmol) of ZrCl4 was added, and the mixture was stirred for 6 hours under 80° C. Toluene was removed, the crude product was recrystallized from THF. 5.97 g of the product was obtained (yield 78%).

reactant | n-BuLi pentane | 2.0M, 22 ml | [Li]CCCC.CCCCC
reactant | ZrCl4 | 20 mmol, 4.66 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | ether | 100 ml | CCOCC | C4H10O
product | isopropylidene(cyclopentadienyl)(indenyl) zirconium dichloride | 5.97 g, yield 78% | [Cl-].[Cl-].C(C)(C)=[Zr+2](C1C=CC2=CC=CC=C12)C1C=CC=C1 | InChI=1S/C9H7.C5H5.C3H6.2ClH.Zr/c1-2-5-9-7-3-6-8(9)4-1;1-2-4-5-3-1;1-3-2;;;/h1-7H;1-5H;1-2H3;2*1H;/q;;;;;+2/p-2
